US07220769B2
Preparation 13. 5,6-Dichloro-2-(4-carboxy-2-ethoxyphenyl)benzimidazole hydrochloride
A mixture of 5,6-dichloro-2-(4-cyano-2-ethoxyphenyl)benzimidazole hydrochloride (16.3 g, 44.2 mmol), prepared as in Preparation 12, 32% NaOH (40 ml) in ethanol (100 ml) was refluxed for 8 h. After cooling to room temperature the organic solvent was removed under vacuum and the aqueous phase was acidified with 37% HCl, stirred for 1 h. The solid was filtered, washed with water (100 ml) and dried at 50° C. under vacuum to give 12 g of the title compound as a light brown powder (yield 70%), mp>250° C.

reactant | 5,6-dichloro-2-(4-cyano-2-ethoxyphenyl)benzimidazole hydrochloride | 44.2 mmol, 16.3 g | Cl.ClC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)C#N)OCC)C=C1Cl
reactant | NaOH | 40 ml | [OH-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 5,6-Dichloro-2-(4-carboxy-2-ethoxyphenyl)benzimidazole hydrochloride | 12 g, yield 70% | Cl.ClC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)C(=O)O)OCC)C=C1Cl | InChI=1S/C16H12Cl2N2O3.ClH/c1-2-23-14-5-8(16(21)22)3-4-9(14)15-19-12-6-10(17)11(18)7-13(12)20-15;/h3-7H,2H2,1H3,(H,19,20)(H,21,22);1H
